US07598423B2
Synthesis of 1-[3-chloro-2-hydroxy-4-(4-iodo-benzyloxy)-phenyl]-ethanone
Add 1-bromomethyl-4-iodo-benzene (10.00 g, 33.7 mmol) to a solution of 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone (7.92 g, 42.4 mmol) and cesium carbonate (16.6 g, 50.9 mmol) in dimethylformamide (250 mL) and stir. After 18 hours, pour reaction into water and extract with ethyl acetate. Combine organic layers and wash with 2N NaOH. Dry with sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography eluting with a gradient of ethyl acetate:hexanes to yield the title product as a tan solid (4.00 g, 23%): 1H NMR (DMSO-d6) δ 2.62 (s, 3H), 5.33 (s, 2H), 6.87 (d, 1H), 7.27 (d, 2H), 7.78 (d, 2H), 7.94 (d, 1H), 13.13 (s, 1H).

reactant | 1-bromomethyl-4-iodo-benzene | 33.7 mmol, 10.00 g | BrCC1=CC=C(C=C1)I | C7H6BrI
reactant | 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone | 42.4 mmol, 7.92 g | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
reactant | cesium carbonate | 50.9 mmol, 16.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 1-[3-chloro-2-hydroxy-4-(4-iodo-benzyloxy)-phenyl]-ethanone | 4.00 g, 23% | ClC=1C(=C(C=CC1OCC1=CC=C(C=C1)I)C(C)=O)O | C15H12ClIO3
